US05028606
A mixture of 7 parts of N-[4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-2-nitrophenyl]-β-oxobenzenepropanamide, 7.03 parts of potassium carbonate and 70 parts of water was stirred for 1.5 hours at reflux temperature. After cooling, the whole was treated with a hydrochloric acid solution 3N to pH 7. The product was extracted with dichloromethane (3×104 parts). The combined extracts were dried, filtered and evaporated. The residue was taken up in ethanol. The product was filtered off and dried, yielding 5.1 parts (73.0%) of 3-benzoyl-6-[1-(1H-imidazol-1-yl)-2-methylpropyl]-2(1H)-quinoxalinone, N4 -oxide monohydrate; mp. 210.0° C. (comp. 154).

reactant | N-[4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-2-nitrophenyl]-β-oxobenzenepropanamide | N1(C=NC=C1)C(C(C)C)C1=CC(=C(C=C1)NC(CC(C1=CC=CC=C1)=O)=O)[N+](=O)[O-] | C22H22N4O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water | O | H2O
product | 3-benzoyl-6-[1-(1H-imidazol-1-yl)-2-methylpropyl]-2(1H)-quinoxalinone | 73.0% | C(C1=CC=CC=C1)(=O)C=1C(NC2=CC=C(C=C2N1)C(C(C)C)N1C=NC=C1)=O | C22H20N4O2
